US08314087B2
6-(3-(aminomethyl)phenyl)-2-(2-(6-(hydroxymethyl)-7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one
Sodium triacetoxyborohydride (200 mg, 944 μmol) was added to a mixture of 4-(2-(3-(3-(aminomethyl)phenyl)-6-oxopyridazin-1(6H)-yl)ethoxy)-7-methoxyquinoline-6-carbaldehyde (16 mg, 37 μmol) in CHCl3 (3 mL) and MeOH (1 mL) were added (to keep solvent volume). After 19 h, K2CO3 (500 mg) was added. After 3 h, the mixture was filtered and concentrated. The residue was purified on silica (5% (2 N NH3-MeOH) in CH2Cl2 to give a film (10 mg, 62%). LCMS (ESI pos. ion): calc'd for C24H24N4O4: 432.2; found 433.2 (M+1).

reactant | Sodium triacetoxyborohydride | 944 μmol, 200 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-(2-(3-(3-(aminomethyl)phenyl)-6-oxopyridazin-1(6H)-yl)ethoxy)-7-methoxyquinoline-6-carbaldehyde | 37 μmol, 16 mg | NCC=1C=C(C=CC1)C1=NN(C(C=C1)=O)CCOC1=CC=NC2=CC(=C(C=C12)C=O)OC | C24H22N4O4
reactant | K2CO3 | 500 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CHCl3 | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 1 mL | CO | CH4O
product | 6-(3-(aminomethyl)phenyl)-2-(2-(6-(hydroxymethyl)-7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one | NCC=1C=C(C=CC1)C=1C=CC(N(N1)CCOC1=CC=NC2=CC(=C(C=C12)CO)OC)=O | C24H24N4O4
